US06492383B1
{6-[7-(2-Methyl-1H-indol-5-ylamino)-thieno[3,2-b]pyridin-2-yl]-pyridin-2-yl}-methanol)
The title compound was prepared from [6-(7-chloro-thieno[3,2-b]pyridin-2-yl)-pyridin-2-yl]-methanol and 2-methyl-5-aminoindole by the procedure analogous to example 148(c) above. 1H NMR (400 MHz, CD3OD) δ8.10 (d, 1H), 7.90 (s, 1H), 7.83 (m, 2H), 7.44 (m, 1H), 7.36 (s, 1H), 7.30 (d, 1H), 6.90 (d, 1H), 6.60 (d, 1H), 6.12 (s, 1H), 3.57 (s, 2H), 2.42 (s, 3H); RP18-HPLC RT: 4.59 minutes; API MS: 387 (M+1).

reactant | [6-(7-chloro-thieno[3,2-b]pyridin-2-yl)-pyridin-2-yl]-methanol | ClC1=C2C(=NC=C1)C=C(S2)C2=CC=CC(=N2)CO | C13H9ClN2OS
reactant | 2-methyl-5-aminoindole | CC=1NC2=CC=C(C=C2C1)N | C9H10N2
product | {6-[7-(2-Methyl-1H-indol-5-ylamino)-thieno[3,2-b]pyridin-2-yl]-pyridin-2-yl}-methanol | CC=1NC2=CC=C(C=C2C1)NC1=C2C(=NC=C1)C=C(S2)C2=CC=CC(=N2)CO | C22H18N4OS
